### ISSUE TITLE
RFC: remove `simpCtorEq` from the default simprocs

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover/lean4#5046]
### Proposal

Currently `simp only` simplifies an equality `a = b` to `False`, if `a` and `b` are different constructors for an inductive type.  This is apparently done by the `Meta.Simp.simpCtorEq` simproc.

Would it be possible to turn off this `simproc` in `simp only`, while still keeping it in the set of rules used by `simp`?  Here are three arguments in favour of this change:

1) This simproc can cause unpredictable behaviour.  For example,
```lean
example : (1:Nat) = 0 := by
  simp only -- goal `False`

example : (1:Int) = 0 := by
  simp only -- "simp made no progress"

example : (-1:Int) = 0 := by
  simp only -- goal `False`
```
The `simpCtorEq` simproc is applicable to the first and last of these goals but not to the middle one.

2) This simproc can cause inefficient behaviour.  For example (from @kmill):
```lean
example : 2^10000 = 2^9999 := by
  simp (config := Lean.Meta.Simp.neutralConfig) only
/-
exponent 10000 exceeds the threshold 256, exponentiation operation was not evaluated,
use `set_option exponentiation.threshold <num>` to set a new threshold
-/
```

3) There are use cases where unambiguously this simproc is undesirable, so it's awkward to have it baked into `simp only`, where it is (AFAICT) impossible to turn off.  For example, the simp tactic is [used internally in the Mathlib `ring` tactic](https://github.com/leanprover-community/mathlib4/blob/08ecf4c7e62daf335fa2f9e42d6ad90574211eb5/Mathlib/Tactic/Ring/RingNF.lean#L162-L166) to clean up failures before they are presented to the user.  This simproc actually cleans up some failures too aggressively, so that the information to the user is lost!
```lean
import Mathlib

-- simproc does not act, user gets useful error message
example (x : ℤ) : x + 1 - x = 0 := by ring
/-
error: unsolved goals
⊢ 1 = 0
-/

-- simproc acts, user does not get useful error message
example (x : ℤ) : x - 1 - x = 0 := by ring
/-
error: unsolved goals
⊢ False
-/
```

### Community Feedback

Discussion at 
https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/simp.20only.20on.20numeric.20goals

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Side note: `ring` could likely be fixed by adjusting `Methods.post` in the `simp` call
